US06239142B1
N-(4-Chlorobenzyl)-4-hydroxythieno[2,3-b]pyridine-5-carboxamide
A mixture of ethyl 4-hydroxythieno[2,3-b]pyridine-5-carboxylate (J. Heterocyclic Chem. 1977, 14, 807) (0.447 g) and 4-chlorobenzylamine (2.43 mL) is stirred at 190° C. for 1 h. The reaction is then allowed to cool to rt and is diluted with toluene (5 mL). The resulting precipitate is filtered off and washed with toluene followed by hexanes to yield an off-white solid. This material is recrystallized from acetic acid/water then ethanol to yield 0.285 g (45%) of the title compound as a white solid.

reactant | ethyl 4-hydroxythieno[2,3-b]pyridine-5-carboxylate | 0.447 g | OC1=C2C(=NC=C1C(=O)OCC)SC=C2 | C10H9NO3S
reactant | 4-chlorobenzylamine | 2.43 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-Chlorobenzyl)-4-hydroxythieno[2,3-b]pyridine-5-carboxamide | 0.285 g, 45% | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC=C3)O)C=C1 | C15H11ClN2O2S
